US07858784B2
Synthesis of 4-fluoro-N-(4-methoxyphenyl)aniline (FIG. 12, Table 8, Entry 8)
Following general procedure E, a mixture of 4-chloroanisole (123 μL, 1.0 mmol), 4-fluoroaniline (114 μL, 1.2 mmol), NaOt-Bu (115 mg, 1.2 mmol), 10 (0.08 mg, 0.01 mol %), 1 (0.05 mg, 0.01 mol %), and Bu2O (1 mL) was heated to 110° C. for 1 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-30% EtOAc/hexanes) to provide the title compound as a white solid (209 mg, 94%), mp 59-60° C. 1H NMR (300 MHz, CDCl3) δ: 7.03-6.86 (m, 8H), 5.41 (s, 1H), 3.81 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 159.0, 155.8, 155.2, 141.4, 136.8, 121.4, 118.0, 117.9, 116.2, 115.9, 115.0, 55.8 ppm. IR (neat, cm−1): 3391, 3007, 1508, 1314, 1243, 1221, 1027, 814, 772, 591. Anal. Calcd. for C13H12FNO: C, 71.87; H, 5.57. Found: C, 71.89; H, 5.62.

reactant | 4-chloroanisole | 1.0 mmol, 123 μL | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | 4-fluoroaniline | 1.2 mmol, 114 μL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | NaOt-Bu | 1.2 mmol, 115 mg | CC(C)(C)[O-].[Na+]
reactant | Bu2O | 1 mL | O(CCCC)CCCC | C8H18O
product | 4-fluoro-N-(4-methoxyphenyl)aniline | 209 mg, 94% | FC1=CC=C(NC2=CC=C(C=C2)OC)C=C1 | C13H12FNO
